US08859580B2
[(2R,6R,11S)-8-Aminomethyl-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone
A solution of (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carbonitrile (50 mg) in 1 M ammonia in methanol (5 mL) is treated with Raney Ni (50 mg) under hydrogen atmosphere at 50° C. for 3 h. Then, the catalyst is separated by filtration and the filtrate is concentrated under reduced pressure.

reactant | (2R,6R,11S)-3-(3H-benzoimidazole-5-carbonyl)-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carbonitrile | 50 mg | N1=CNC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C#N | C23H22N4O
solvent | ammonia | 1 M | N | H3N
solvent | methanol | 5 mL | CO | CH4O
catalyst | Ni | 50 mg | [Ni] | Ni
product | [(2R,6R,11S)-8-Aminomethyl-6,11-dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-(3H-benzoimidazol-5-yl)-methanone | NCC1=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(=O)C3=CC2=C(N=CN2)C=C3)C=C1 | C23H26N4O
